US04371536
720 mg of 6-fluoro-1,2,3,4-tetrahydro-β-carbolin-3-carboxylic acid ethyl ester and 130 mg of dry sulphur are heated to boiling under nitrogen in 5 ml of xylene. After cessation of dehydrogenation (about 20 hours, thin-layer chromatography check), the solution is concentrated by evaporation in vacuo, and the residue chromatographed on silica gel with chloroform ethanol (95:5). 300 mg of 6-fluoro-β-carbolin-3-carboxylic acid ethyl ester of melting point 284° C. (decomposition) is obtained. After reaction with hydrochloric acid, the hydrochloride which melts at 295° C., with decomposition, is obtained.

reactant | 6-fluoro-1,2,3,4-tetrahydro-β-carbolin-3-carboxylic acid ethyl ester | 720 mg | C(C)OC(=O)C1NCC=2NC3=CC=C(C=C3C2C1)F | C14H15FN2O2
reactant | sulphur | 130 mg | [S] | S
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 6-fluoro-β-carbolin-3-carboxylic acid ethyl ester | 300 mg | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1)F | C14H11FN2O2
